US07632850B2
2-(methylamino)-2-oxoethyl 1,1′-biphenyl-4-ylmethylcarbamate
0.1 g (0.97 mmol) of N-methyl-2-hydroxyacetamide is admixed dropwise at ambient temperature with a solution of 0.196 g (0.97 mmol) of 4-nitrophenyl chloroformate in 3 ml of methylene chloride and 0.166 ml (0.97 mmol) of N,N-diisopropylethylamine. The mixture is stirred at ambient temperature for 45 minutes and then a solution of 0.195 g (1.067 mmol) of 4-phenylbenzylamine in 3 ml of methylene chloride and 0.166 ml (0.97 mmol) of N,N-diisopropylethylamine is added dropwise at ambient temperature. The mixture is stirred at ambient temperature for 1 hour. It is washed with saturated aqueous ammonium chloride solution, with aqueous 10% sodium carbonate solution and with saturated aqueous sodium chloride solution. The phases are separated and the organic phase is dried over sodium sulphate. The system is filtered, the filtrate is concentrated under reduced pressure and the residue is purified by chromatography on silica gel using ethyl acetate.

reactant | N-methyl-2-hydroxyacetamide | 0.97 mmol, 0.1 g | CNC(CO)=O | C3H7NO2
reactant | 4-nitrophenyl chloroformate | 0.97 mmol, 0.196 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N,N-diisopropylethylamine | 0.97 mmol, 0.166 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-phenylbenzylamine | 1.067 mmol, 0.195 g | C1(=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13N
reactant | N,N-diisopropylethylamine | 0.97 mmol, 0.166 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(methylamino)-2-oxoethyl 1,1′-biphenyl-4-ylmethylcarbamate | C1(=CC=C(C=C1)CNC(OCC(=O)NC)=O)C1=CC=CC=C1 | C17H18N2O3
